US09102623B2
A16.3) 5-Chloro-N,N-diethyl-6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
After dissolution of 355 mg (1.04 mmol) of 5-chloro-6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid in 30 ml tetrahydrofuran and addition of 337 mg (2.08 mmol) of N,N-carbonyldiimidazole, the mixture was stirred initially at room temperature for 30 min and then under reflux for 30 min. 152 mg (0.22 ml, 2.08 mmol) of diethylamine were then added, and the mixture was heated under reflux for a further 2 h. The solution was evaporated to dryness and then taken up in dichloromethane, washed with 1N hydrochloric acid and water, dried and concentrated. This gave 300 mg (72% of theory) of the product.

reactant | 5-chloro-6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 1.04 mmol, 355 mg | ClC=1C=C(C(NC1C(C(C(F)(F)F)(F)F)(F)F)=O)C(=O)O | C9H3ClF7NO3
reactant | N,N-carbonyldiimidazole | 2.08 mmol, 337 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | diethylamine | 2.08 mmol, 0.22 ml, 152 mg | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-Chloro-N,N-diethyl-6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | ClC=1C=C(C(NC1C(C(C(F)(F)F)(F)F)(F)F)=O)C(=O)N(CC)CC | C13H12ClF7N2O2
